US06194487B1
Next, the 1,3-propanedisulfonyl chloride vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 10 minutes. Consequently, 1,3-propanedisulfonyl chloride condensed on the surface of the base particles. A polymerization reaction took place between 1,3-propanedisulfonyl chloride condensed on the surface of the base particles and 2-amino-5-mercapto-1,3,4-thiadiazole contained therein, forming a film of 2-amino-5-mercapto-1,3,4-thiadiazole-1,3-propanedisulfonyl chloride co-polymer on the surface of the base particles.

reactant | 1,3-propanedisulfonyl chloride | C(CCS(=O)(=O)Cl)S(=O)(=O)Cl | C3H6Cl2O4S2
reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | NC=1SC(=NN1)S | C2H3N3S2
product | 2-amino-5-mercapto-1,3,4-thiadiazole 1,3-propanedisulfonyl chloride | NC=1SC(=NN1)S.C(CCS(=O)(=O)Cl)S(=O)(=O)Cl | InChI=1S/C3H6Cl2O4S2.C2H3N3S2/c4-10(6,7)2-1-3-11(5,8)9;3-1-4-5-2(6)7-1/h1-3H2;(H2,3,4)(H,5,6)
